US07723368B2
Step 2) 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[(ethylamino)-methyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one
A small vial (2 ml) was charged with 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (68 mg, 189 μmol) and THF (0.5 ml). To this was added a 2M solution of ethylamine in THF (100 μl). After stirring overnight methanol (1 ml) and sodium borohydride (11 mg) was added, then after another hour 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 61 mg (83%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.95 (t, J=7.1 Hz, 3H) 2.38-2.44 (m, 2H, partially obscured by solvent) 2.93 (s, 3H) 3.56 (s, 2H) 6.61 (br. s., 2H) 6.66 (br. s., 1H) 7.05 (d, J=8.8 Hz, 2H) 7.12 (t, J=74.18 Hz, 1H) 7.14-7.28 (m, 3H) 7.33-7.39 (m, 1H) 7.42 (d, J=8.8 Hz, 2H); MS (APPI) m/z 389 [M+H]+

reactant | 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 189 μmol, 68 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | ethylamine | C(C)N | C2H7N
reactant | sodium borohydride | 11 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | THF | 100 μl | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[(ethylamino)-methyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one | 61 mg, 83% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CNCC)C1=CC=C(C=C1)OC(F)F | C20H22F2N4O2
